US08012974B2
Racemic 4-benzylamino-5-methyl-azepane-1-carboxylic acid tert-butyl ester was prepared in the same manner from racemic 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester. In this instance, benzylamine was used instead of (R)-1-phenylethylamine.

reactant | racemic 4-methyl-5-oxo-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)C | C12H21NO3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Racemic 4-benzylamino-5-methyl-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(C(CC1)C)NCC1=CC=CC=C1 | C19H30N2O2
